US07566720B2
1-[2-(Phenylthio)ethyl]-7-pyridin-4-yl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one hydrochloride (1:1)
To a suspension of 0.2 g (0.93 mmol) of 7-pyridin-4-yl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one in ml of anhydrous N,N-dimethylformamide was added 48.5 mg (1.21 mmol) of sodium hydride (60% suspension in mineral oil) and the resulting mixture was heated at 70° C. during 30 min. There was added 0.32 g (1.49 mmol) of 2-bromoethyl phenyl sulfide and heating was continued at 130° C. during 1 h. Water was added to the cooled mixture and the resulting solution extracted with ethyl acetate. The combined extracts were washed with water and evaporated. The crude product was purified by chromatography on silica gel eluting with a mixture of dichloromethane/methanol/diethylamine in the proportions 98/2/0.2 to obtain pure compound as free base. The compound was converted to the hydrochloride salt by addition of hydrochloric acid to an isopropylic solution of the free base. There is obtained 0.11 g of product as a yellow solid.

reactant | 7-pyridin-4-yl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one | 0.93 mmol, 0.2 g | N1=CC=C(C=C1)C=1N=C2N(C(C1)=O)CCN2 | C11H10N4O
reactant | sodium hydride | 1.21 mmol, 48.5 mg | [H-].[Na+]
reactant | 2-bromoethyl phenyl sulfide | 1.49 mmol, 0.32 g | C1(=CC=CC=C1)SCCBr | C8H9BrS
reactant | hydrochloric acid | Cl | ClH
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[2-(Phenylthio)ethyl]-7-pyridin-4-yl-2,3-dihydroimidazo[1,2-a]pyrimidin-5(1H)-one hydrochloride | 0.11 g | Cl.C1(=CC=CC=C1)SCCN1CCN2C1=NC(=CC2=O)C2=CC=NC=C2 | InChI=1S/C19H18N4OS.ClH/c24-18-14-17(15-6-8-20-9-7-15)21-19-22(10-11-23(18)19)12-13-25-16-4-2-1-3-5-16;/h1-9,14H,10-13H2;1H
